US04968593
3-Methylamino-1-phenyl-2-pyrazolin-5-one (1.9 g), ethyl acetoacetate (1.4 g) and acetic acid (8 ml) were refluxed while stirring for 6 hours. The reaction solution was diluted with water, and the resulting crystals were collected by filtration and washed with isopropyl alcohol to obtain 1.8 g of 4,7-dimethyl-2-phenylpyrazolo(3,4-b)pyridine-3,6-dione (melting point 179 - 181oC). In a solution of these crystals (1 g) in methanol (20 ml) and triethylamine (0.7 ml), 1,7-diphenyl-1,7-diaza-1,3,5-heptatriene hydrochloride (0.7 g) was dissolved, and then acetic anhydride (0.6 ml) was added, and the mixture was stirred at room temperature for one hour. The resulting precipitate was collected by filtration, washed with methanol and dried to obtain 5-[5-(N-acetylanilino)-2,3-pentadienylidene]-4,7-dimethyl-2-phenylpyrazolo(3,4-b)pyridine-3, 6-dione (0.2 g). To these crystals (0.15 g), N,N-dimethylformamide (5 ml) and 4,7-dimethyl-2-phenylpyrazolo-(3,4-b)pyridine-3,6-dione (0.08 g) were added, and stirred at 50° C. for 2 hours. After filtration of the reaction solution, the filtrate was diluted with water for crystallization. The resulting crystals were collected by filtration, washed with water and dried to obtain compound II-1 (0.2 g). Melting point 300° C. or more, λmaxMeOH 760 nm.

reactant | 3-Methylamino-1-phenyl-2-pyrazolin-5-one | 1.9 g | CNC1=NN(C(C1)=O)C1=CC=CC=C1 | C10H11N3O
reactant | ethyl acetoacetate | 1.4 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4,7-dimethyl-2-phenylpyrazolo(3,4-b)pyridine-3,6-dione | 1.8 g | CC=1C2=C(N(C(C1)=O)C)NN(C2=O)C2=CC=CC=C2 | C14H13N3O2
